US04168964
3-[1-(5-methyl-2-phenyl-4-imidazolyl)ethylidene]carbazic acid, methyl ester
Methyl 5-methyl-2-phenyl-4-imidazolyl ketone (4.5 gm., 0.023 mole) is refluxed with methyl carbazate (2.4 gm., 0.023 mole) in toluene (112 ml.) for 5 hours. The toluene is removed, and the solid washed with water (3×50 ml.). The solid is recrystallized from methanol to yield the product (1.28 gm., 20.9%), m.p. 201°-201.5° C.

reactant | Methyl 5-methyl-2-phenyl-4-imidazolyl ketone | 0.023 mole, 4.5 gm | CC1=C(N=C(N1)C1=CC=CC=C1)C(=O)C | C12H12N2O
reactant | methyl carbazate | 0.023 mole, 2.4 gm | C(NN)(=O)OC | C2H6N2O2
solvent | toluene | 112 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[1-(5-methyl-2-phenyl-4-imidazolyl)ethylidene]carbazic acid, methyl ester | CC1=C(N=C(N1)C1=CC=CC=C1)C(C)=NNC(=O)OC | C14H16N4O2
